US06703392B2
[2-[(Pyridin-2-yl-methyl)-carbamoyl-methyl]-1-(3,4-dimethoxy-benzyl)-8-methoxy-1,2,3,4-tetrahydro-isoquinolin-5-yloxy]-acetic acid methyl ester:
prepared by reaction of 2-[1-(3,4-dimethoxy-benzyl)-5-hydroxy-8-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(pyridin-2-yl-methyl)-acetamide with methyl bromoacetate

reactant | 2-[1-(3,4-dimethoxy-benzyl)-5-hydroxy-8-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(pyridin-2-yl-methyl)-acetamide | COC=1C=C(CC2N(CCC3=C(C=CC(=C23)OC)O)CC(=O)NCC2=NC=CC=C2)C=CC1OC | C27H31N3O5
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | [2-[(Pyridin-2-yl-methyl)-carbamoyl-methyl]-1-(3,4-dimethoxy-benzyl)-8-methoxy-1,2,3,4-tetrahydro-isoquinolin-5-yloxy]-acetic acid methyl ester | COC(COC1=C2CCN(C(C2=C(C=C1)OC)CC1=CC(=C(C=C1)OC)OC)C(C(N)=O)CC1=NC=CC=C1)=O | C30H35N3O7
